US08242175B2
4-(4-{(E)-3-[6-((E)-2-carboxy-vinyl)-pyridin-3-yl]-acryloyl}-phenyl)-piperazine-1-carboxylic acid tert-butyl ester hydrochloride (184 mg, 0.363 mmol) was dissolved in DMF (5 ml), THF (5 ml) and TEA (0.190 ml, 1.47 mmol). Then EDC (140 mg, 0.736 mmol), HOBT (99 mg, 0.736 mmol) and NH2OTHP (51.6 mg, 0.441 mmol) were added to the resulting solution. The mixture was stirred at room temperature overnight and then partitioned between water and AcOEt. The organic phase was dried over Na2SO4 and evaporated in vacuo. The crude reaction mixture was purified by column chromatography (eluent: DCM/MeOH/NH4OH 98:2:0.2) and the resulting compound was dissolved in DCM and treated with HCl/Et2O for 1 h. The precipitate was filtered off and washed with DCM. The hygroscopic powder was dissolved in water and freeze dried to give 53 mg of (E)-N-hydroxy-3-{5-[(E)-3-oxo-3-(4-piperazin-1-yl-phenyl)-propenyl]-pyridin-2-yl}-acrylamide as its bis-hydrochloride salt.

reactant | 4-(4-{(E)-3-[6-((E)-2-carboxy-vinyl)-pyridin-3-yl]-acryloyl}-phenyl)-piperazine-1-carboxylic acid tert-butyl ester hydrochloride | 0.363 mmol, 184 mg | Cl.C(C)(C)(C)OC(=O)N1CCN(CC1)C1=CC=C(C=C1)C(\C=C\C=1C=NC(=CC1)\C=C\C(=O)O)=O
reactant | EDC | 0.736 mmol, 140 mg
reactant | HOBT | 0.736 mmol, 99 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | NH2OTHP | 0.441 mmol, 51.6 mg | NOC1OCCCC1 | C5H11NO2
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | (E)-N-hydroxy-3-{5-[(E)-3-oxo-3-(4-piperazin-1-yl-phenyl)-propenyl]-pyridin-2-yl}-acrylamide | 53 mg | ONC(\C=C\C1=NC=C(C=C1)\C=C\C(C1=CC=C(C=C1)N1CCNCC1)=O)=O | C21H22N4O3
